US06288120B1
1-Bromomethyl-4-butyl-benzene
HBr was bubbled into a solution of (4-butyl-phenyl)-methanol (10.0 g, 60.9 mmol) in CH2Cl2 (100 mL) for 15 minutes. The reaction was stirred for an additional 45 minutes and was poured onto ice water. The aqueous solution was extracted with CH2Cl2 (2×) and was dried (MgSO4), filtered, and concentrated to provide the title compound which was used without further purification. 1H NMR (400 MHz, CDCl3) δ 7.29 (d, 2H), 7.14 (d, 2H), 4.49 (s, 2H), 2.60 (t, 2H), 1.58 (m, 2H), 1.36 (m, 2H), 0.92 (t, 3H).

reactant | HBr | Br | BrH
reactant | (4-butyl-phenyl)-methanol | 60.9 mmol, 10.0 g | C(CCC)C1=CC=C(C=C1)CO | C11H16O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-Bromomethyl-4-butyl-benzene | BrCC1=CC=C(C=C1)CCCC | C11H15Br
